US08703810B2
(R)-2-((R)-3-Methylpyrrolidin-1-yl)propan-1-ol
The title compound was synthesized as described in Intermediate 11 using (R)-dimethyl 2-methylsuccinate and (R)-2-aminopropan-1-ol as starting materials. 1H NMR (CDCl3): δ 3.57 (dd, 1H), 3.32 (dd, 1H), 3.02 (br s, 1H), 2.81 (dd, 1H), 2.69 (m, 2H), 2.60 (m, 1H), 2.20 (m, 1H), 2.12 (dd, 1H), 1.98 (m, 1H), 1.32 (m, 1H), 1.04 (m, 6H); MS: 144.3 (M+H)+.

reactant | (R)-dimethyl 2-methylsuccinate | C[C@@H](C(=O)OC)CC(=O)OC | C7H12O4
reactant | (R)-2-aminopropan-1-ol | N[C@@H](CO)C | C3H9NO
product | (R)-2-((R)-3-Methylpyrrolidin-1-yl)propan-1-ol | C[C@H]1CN(CC1)[C@@H](CO)C | C8H17NO
